US04128716
(b) 4-Ethoxypyrazolo[1,5-a]quinoxaline-3-carboxylic acid
To a solution of 2.85 g. of 4-ethoxypyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester in hot ethanol, there is added 10 ml. of 10% aqueous sodium hydroxide and the mixture refluxed for 2 hours. The mixture is concentrated under reduced pressure and the residue dissolved in water. The solution is filtered and neutralized with dilute hydrochloric acid. The precipitated 4-ethoxypyrazolo[1,5-a]quinoxaline-3-carboxylic acid is filtered and washed with a small amount of cold water. The product is crystallized from ethanol.

reactant | 4-ethoxypyrazolo[1,5-a]quinoxaline-3-carboxylic acid, ethyl ester | C(C)OC=1C=2N(C3=CC=CC=C3N1)N=CC2C(=O)OCC | C15H15N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-Ethoxypyrazolo[1,5-a]quinoxaline-3-carboxylic acid | C(C)OC=1C=2N(C3=CC=CC=C3N1)N=CC2C(=O)O | C13H11N3O3
